* C:\users\theofc\Documents\UFMG\Lab ELT1\Fonte CC\FonteCC-ELT1-Primeira Tentativa.asc
* Generated by LTspice 24.1.9 for Windows.
R7 +VCC Vref+ 1k
X§D9 0 Vref+ DI_1N4734A
R9 0 Vref+ 10k
Q3 +VCC N012 V1 0 TIP41C
R10 N007 N012 200
R13 VOPos N006 8.2k
R15 -VCC Vref- 1k
X§D10 Vref- 0 DI_1N4734A
R17 0 Vref- 10k
R18 N009 N013 200
R21 VONeg N008 8.2k
R2 N006 0 4.7k
R3 N008 0 4.7k
Q1 -VCC N013 N014 0 TIP42C
D1 N001 +VCC DI_1N4001
D2 -VCC N001 DI_1N4001
D3 N005 +VCC DI_1N4001
D4 -VCC N005 DI_1N4001
V1 N001 0 SINE(0 22.9 60)
V2 0 N005 SINE(0 22.9 60)
C2 +VCC 0 4700µF
C4 0 -VCC 4700µF
Q2 +VCC N003 +5V 0 TIP41C
R1 +VCC N003 1k
X§D5 0 N003 DI_1N4734A
R4 -VCC N004 1k
X§D6 N004 0 DI_1N4734A
Q4 -VCC N004 -5V 0 TIP42C
X§U1 Vref+ N006 +VCC -5V N007 level2 Avol=2e5 GBW=3Meg Slew=13Meg Ilimit=40m Rail=1.5 Vos=3m En=15n Enk=0 In=20p Ink=0 Rin=10e12
X§U2 Vref- N008 +5V -VCC N009 level2 Avol=2e5 GBW=3Meg Slew=13Meg Ilimit=40m Rail=1.5 Vos=3m En=15n Enk=0 In=20p Ink=0 Rin=10e12
R5 VOPos 0 10
R6 +VCC N002 1k
X§D7 0 N002 DI_1N4734A
R11 2.1V N002 6.2k
R12 0 2.1V 3.8k
R20 VONeg 0 15
R14 V1 VOPos 0.1
R19 N014 VONeg 0.1
R22 N015 VOPos 3.3k
R23 N019 V1 3.3k
R24 N019 0 62k
R25 N016 N015 62k
R26 N018 N017 620
D8 N018 CLK1 DI_1N4001
R27 CLK1 0 100k
X§D11 0 CLK1 DI_1N4734A
X§U3 N019 N015 +VCC -5V N016 level2 Avol=2e5 GBW=3Meg Slew=13Meg Ilimit=40m Rail=1.5 Vos=3m En=15n Enk=0 In=20p Ink=0 Rin=10e12
X§U4 N016 2.1V +VCC -5V N017 level2 Avol=2e5 GBW=3Meg Slew=13Meg Ilimit=40m Rail=1.5 Vos=3m En=15n Enk=0 In=20p Ink=0 Rin=10e12
.model D D
.lib C:\users\theofc\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\theofc\AppData\Local\LTspice\lib\cmp\standard.bjt
* Fonte Auxiliar 2.1V
* Fonte Auxiliar +5V
* Fonte Auxiliar -5V
* Parte Positiva
* Tensão de Referência +
* Amplificação+
* Parte Negativa
* Tensão de Referência -
* Amplificação-
.lib lib/1N473XA.lib
* Libs
.lib lib/TIP4XC.lib
.lib lib/1N4001.lib
.lib lib/TL074.lib
.tran 0 5.033 5 10u
* Retificação
* Proteção Digital +
.lib UniversalOpAmp2.lib
.backanno
.end
