* C:\users\theofc\Documents\UFMG\Lab ELT1\Fonte CC\FonteCC-ELT1-Primeira Tentativa.asc
* Generated by LTspice 24.1.9 for Windows.
R7 +VCC Vref+ 1k
X§D9 0 Vref+ DI_1N4734A
R9 0 Vref+ 10k
Q3 +VCC N014 V1 0 TIP41C
R10 N009 N014 200
R13 VOPos N008 8.2k
R15 -VCC Vref- 1k
X§D10 Vref- 0 DI_1N4734A
R17 0 Vref- 10k
R18 N011 N015 200
R21 VONeg N010 8.2k
R2 N008 0 4.7k
R3 N010 0 4.7k
Q1 -VCC N015 N016 0 TIP42C
D1 N001 N002 DI_1N4001
D2 N004 N001 DI_1N4001
D3 N007 N002 DI_1N4001
D4 N004 N007 DI_1N4001
V1 N001 0 SINE(0 22.9 60)
V2 0 N007 SINE(0 22.9 60)
C2 N002 0 4700µF
C4 0 N004 4700µF
Q2 +VCC N005 +5V 0 TIP41C
R1 +VCC N005 1k
X§D5 0 N005 DI_1N4734A
R4 -VCC N006 1k
X§D6 N006 0 DI_1N4734A
Q4 -VCC N006 -5V 0 TIP42C
R5 VOPos 0 15
R6 +VCC N003 1k
X§D7 0 N003 DI_1N4734A
R11 2.1V N003 6.2k
R12 0 2.1V 3.8k
R20 VONeg 0 15
R14 V1 VOPos 0.1
R19 N016 VONeg 0.1
R22 N019 VOPos 3.3k
R23 N025 V1 3.3k
R24 N025 0 62k
R25 N020 N019 62k
R26 N023 N022 620
D8 N023 CLK1 DI_1N4001
R27 CLK1 0 100k
X§D11 0 CLK1 DI_1N4734A
R28 N017 V2 3.3k
R29 N024 VONeg 3.3k
R30 N024 0 62k
R31 N018 N017 62k
D12 N021 CLK2 DI_1N4001
R33 CLK2 0 100k
X§U1 Vref+ N008 +VCC -5V N009 TL074
X§U2 Vref- N010 +5V -VCC N011 TL074
X§U3 N025 N019 +VCC -5V N020 TL074
X§U4 N020 2.1V +VCC -5V N022 TL074
X§U5 N024 N017 +5V -VCC N018 TL074
X§U6 N018 2.1V +5V -VCC N021 TL074
R32 +VCC N002 1
R34 -VCC N004 1
.model D D
.lib C:\users\theofc\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\theofc\AppData\Local\LTspice\lib\cmp\standard.bjt
* Fonte Auxiliar 2.1V
* Fonte Auxiliar +5V
* Fonte Auxiliar -5V
* Parte Positiva
* Tensão de Referência +
* Amplificação+
* Parte Negativa
* Tensão de Referência -
* Amplificação-
.lib lib/1N473XA.lib
* Libs
.lib lib/TIP4XC.lib
.lib lib/1N4001.lib
.lib lib/TL074.lib
.tran 0 5.033 5 10u
* Retificação
* Proteção Digital +
* Proteção Digital +
.backanno
.end
